US05994356
(32) 1-(4-Methoxycarbonylmethyloxyphenyl)-4-[(piperidin-4-yl)-N-benzylmethylamino]piperidine dihydrochloride
Prepared from 4-[(1-tert-butyloxycarbonylpiperidin-4-yl)-N-benzylmethylamino]-1-(4-methoxycarbonylmethyloxyphenyl)piperidine and ethereal hydrochloric acid.

reactant | 4-[(1-tert-butyloxycarbonylpiperidin-4-yl)-N-benzylmethylamino]-1-(4-methoxycarbonylmethyloxyphenyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CCC1=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)OCC(=O)OC | C32H45N3O5
reactant | hydrochloric acid | Cl | ClH
product | 1-(4-Methoxycarbonylmethyloxyphenyl)-4-[(piperidin-4-yl)-N-benzylmethylamino]piperidine dihydrochloride | Cl.Cl.COC(=O)COC1=CC=C(C=C1)N1CCC(CC1)N(CCC1=CC=CC=C1)C1CCNCC1 | InChI=1S/C27H37N3O3.2ClH/c1-32-27(31)21-33-26-9-7-23(8-10-26)29-18-14-25(15-19-29)30(24-11-16-28-17-12-24)20-13-22-5-3-2-4-6-22;;/h2-10,24-25,28H,11-21H2,1H3;2*1H
